* source CC-CC
M_M1         N00599 N00318 0 0 IRF640
D_D3         N00599 N01264 MUR880 
M_M2         N00599 N00318 0 0 IRF640
D_D4         N00599 N01264 MUR880 
M_M3         N00599 N00318 0 0 IRF640
D_D5         N00599 N01264 MUR880 
D_D6         N00599 N01264 MUR880 
M_M4         N00599 N00318 0 0 IRF640
M_M5         N00599 N00318 0 0 IRF640
R_R1         N01613 N00599  200  
L_L1         N00731 N00599  20uH  
R_R2         0 N01264  15  
V_V1         N00731 0 12Vdc
C_C1         0 N01613  3n  
V_V2         N00318 0  
+PULSE 0 12 25us 0.001ns 0.001ns 25us 50us
C_C2         0 N01264  1m  
D_D1         N00599 N01264 MUR880 
D_D2         N00599 N01264 MUR880 
