* source TP3
R_R5         N00535 N00952  0.5  
M_M1         N01091 N01204 N00579 N00579 IRF9640
R_R6         N00535 N00783  0.5  
M_M2         N01091 N01204 N01010 N01010 IRF9640
R_R7         N00739 N00535  100  
M_M3         N01091 N01204 N00981 N00981 IRF9640
C_C1         0 N00739  5n  
M_M4         N01091 N01204 N00952 N00952 IRF9640
C_C2         0 N01705  1m  
M_M5         N01091 N01204 N00783 N00783 IRF9640
L_L1         N00535 N01705  10uH  
V_V1         N01091 0 12Vdc
I_I1         N01705 0 DC 2Adc  
R_R2         N00535 N00579  0.5  
R_R3         N00535 N01010  0.5  
D_D1         0 N00535 MUR880 
R_R4         N00535 N00981  0.5  
V_V2         N01204 0  
+PULSE 0 12 25us 0.001ns 0.001ns 25us 50us
